US04906663
n-Butyl lithium (a hexane solution with f=1.69, 20.7 ml) was dissolved in THF (57 ml), and the solution was cooled to -78° C. To this solution, a solution of diethylcarboxyfluoromethane phosphonate (3.48 g, 16.3 mmol) in THF (25 ml) was dropwise added at -78° C. The mixture was stirred at the same temperature for 30 minutes. To this reaction solution, a solution of 4-methoxycarbonylbutanal (2.11 g, 16.3 mmol) in THF (16 ml) was dropwise added at -78° C., and the mixture was stirred at the same temperature. One hour later, the cooling bath was removed, and the mixture was stirred at room temperature for further one hour. Then, the reaction solution was cooled to 0° C., and water (40 ml) was added thereto. The mixture was vigorously stirred. The separated organic layer was extracted with a saturated sodium hydrogencarbonate aqueous solution (20 ml×2), and the extract solutions were combined with the previous aqueous layer, and the mixture was washed with ethyl ether (40 ml×2). The aqueous layer was adjusted to pH 4 by using hydrochloric acid under cooling with ice, and then sodium chloride was added to saturation. Then, the mixture was extracted with ethyl ether (40 ml×3), and the organic layer was dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, and the residue was purified by silica gel column chromatography (methylene chloride/acetone=4/1 (containing 0.1% of acetic acid)) to obtain 2-fluoro-6-methoxycarbonyl-2-hexenoic acid (2.34 g, a mixture of E- and Z-isomers, yield: 76%) as yellow oil.

reactant | n-Butyl lithium | C(CCC)[Li]
reactant | hexane | CCCCCC | C6H14
reactant | diethylcarboxyfluoromethane phosphonate | 16.3 mmol, 3.48 g | P(O)(O)=O.C(C)C(F)(C(=O)O)CC
reactant | 4-methoxycarbonylbutanal | 16.3 mmol, 2.11 g | COC(=O)CCCC=O | C6H10O3
solvent | THF | 57 ml | C1CCOC1 | C4H8O
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | THF | 16 ml | C1CCOC1 | C4H8O
product | 2-fluoro-6-methoxycarbonyl-2-hexenoic acid | yield: 76% | FC(C(=O)O)=CCCCC(=O)OC | C8H11FO4
